datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc2ccc(C)[n:10]c2c1.NC(=O)Nc1[nH]c[n+:21]([H:20])c1C(=O)[O-]>>Cc1ccc2ccc(C)[n+:10]([H:20])c2c1.NC(=O)Nc1[nH]c[n:21]c1C(=O)[O-] 10=20;20,21=21",
"C[N:10](C)Cc1cccc(O)c1O.Cc1nn(C)c2c1C(c1ccccc1F)=[N+:21]([H:20])CC(=O)N2C>>C[N+:10](C)(Cc1cccc(O)c1O)[H:20].Cc1nn(C)c2c1C(c1ccccc1F)=[N:21]CC(=O)N2C 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)Cc1cc([O-:10])ccc1-2>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)Cc1cc([O:10][H:20])ccc1-2 10=20;20,21=21",
"COc1cccc(C[N+:21]2([H:20])CC(O[Si](C)(C)C)C2)c1.Nc1ccc(-c2ccc(/[N:10]=C\c3ccccc3O)cc2)cc1>>COc1cccc(C[N:21]2CC(O[Si](C)(C)C)C2)c1.Nc1ccc(-c2ccc(/[N+:10](=C\c3ccccc3O)[H:20])cc2)cc1 10=20;20,21=21",
"[H:20][NH2+:21]CCCl.C[N+]1=CC=C(C=C1)[CH-:10]S(=O)(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)S(=O)(=O)C2=CC=CC=C2.C(CCl)[NH2:21] 10=20;20,21=21",
"O=[N+]([O-])[N:21](c1ccccc1)[H:20].c1ccc(C[NH2+]CC[NH2:10])cc1>>O=[N+]([O-])[N-:21]c1ccccc1.c1ccc(C[NH2+]CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C)(C)CC(C)(C)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)(C)CC(C)(C)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1nc2nccnc2c[n:10]1.O=C1c2cccc([N+](=O)[O-])c2C(=O)[N:21]1[H:20]>>Cc1nc2nccnc2c[n+:10]1[H:20].O=C1c2cccc([N+](=O)[O-])c2C(=O)[N-:21]1 10=20;20,21=21",
"O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1cccnc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1cccnc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCC[NH:10]CCCCCC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCC[NH+:10](CCCCCC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(O)C[N+:21](CC(C)O)(C(C)(C)C)[H:20].Cc1cc2ccccc2[n:10]c1>>CC(O)C[N:21](CC(C)O)C(C)(C)C.Cc1cc2ccccc2[n+:10]([H:20])c1 10=20;20,21=21",
"CCc1cn[n+:21]([H:20])c(C)c1.c1cnc2c(c1)ccc1c3c(c[n:10]c12)CCC3>>CCc1cn[n:21]c(C)c1.c1cnc2c(c1)ccc1c3c(c[n+:10]([H:20])c12)CCC3 10=20;20,21=21",
"C1C[NH:10]CS1.CCN(CC)CC(=N[O-])/C(C)=N/[O:21][H:20]>>C1C[NH+:10]([H:20])CS1.CCN(CC)CC(=N[O-])/C(C)=N/[O-:21] 10=20;20,21=21",
"COc1ccc(C[NH2:10])cc1OC.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1ccc(C[NH2+:10][H:20])cc1OC.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Oc1cccc2c1ccn[n+:21]2[H:20].[NH3+]C(Cc1c[nH]c2ccccc12)C(=O)[O-:10]>>Oc1cccc2c1ccn[n:21]2.[NH3+]C(Cc1c[nH]c2ccccc12)C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1c(Br)cccc1C(=O)[O:21][H:20].Cc1cccc(C[N:10](C)C)c1O>>Cc1c(Br)cccc1C(=O)[O-:21].Cc1cccc(C[N+:10](C)(C)[H:20])c1O 10=20;20,21=21",
"O=S(=O)([O-])CCC[N+:21]1([H:20])CCOCC1.[NH3+]C(Cc1ccccc1)c1nnn[n-:10]1>>O=S(=O)([O-])CCC[N:21]1CCOCC1.[NH3+]C(Cc1ccccc1)c1nnn[n:10]1[H:20] 10=20;20,21=21",
"C=C(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(N)=O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=C(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(N)=O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1ccc(Cc2ccc([NH2+:21][H:20])cc2)cc1.O=C(/C=C\c1c[nH]c[nH+]1)[O-:10]>>Nc1ccc(Cc2ccc([NH2:21])cc2)cc1.O=C(/C=C\c1c[nH]c[nH+]1)[O:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.c1coc(CNCC[NH:10]Cc2ccco2)c1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.c1coc(CNCC[NH+:10](Cc2ccco2)[H:20])c1 10=20;20,21=21",
"CCC(O)C[N:10](C)CC(O)CC.[NH3+]Cc1cc[n+:21]([H:20])cc1>>CCC(O)C[N+:10](C)(CC(O)CC)[H:20].[NH3+]Cc1cc[n:21]cc1 10=20;20,21=21",
"CC(C)(C)[O-:10].N#CC1=CC=C([CH:21](C(=O)C2=CC=NC=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].N#CC1=CC=C([CH-:21]C(=O)C2=CC=NC=C2)C=C1 10=20;20,21=21",
"ClCC1C[N:10]2CCC1CC2.[NH3+]CC/C=C/C(=O)[O:21][H:20]>>ClCC1C[N+:10]2([H:20])CCC1CC2.[NH3+]CC/C=C/C(=O)[O-:21] 10=20;20,21=21",
"CCC[N+:21](CCC)(CCCNC(=O)/C=N/[O-])[H:20].C[n+]1cnc2c(ncc([O-])[n:10]2)c1[O-]>>CCC[N:21](CCC)CCCNC(=O)/C=N/[O-].C[n+]1cnc2c(ncc([O-])[n+:10]2[H:20])c1[O-] 10=20;20,21=21",
"Cc1ncc(CO)c(CO)c1[O:21][H:20].Nc1cc([O-:10])ccc1O>>Cc1ncc(CO)c(CO)c1[O-:21].Nc1cc([O:10][H:20])ccc1O 10=20;20,21=21",
"Cc1cc(C)c(C)c([O-:10])c1.O=C([O-])/C=C\C[NH2+:21][H:20]>>Cc1cc(C)c(C)c([O:10][H:20])c1.O=C([O-])/C=C\C[NH2:21] 10=20;20,21=21",
"CCc1cccc2ccc([O:21][H:20])cc12.COCC[NH:10]c1ccccc1>>CCc1cccc2ccc([O-:21])cc12.COCC[NH+:10](c1ccccc1)[H:20] 10=20;20,21=21",
"COc1ccccc1/C(c1ccccc1)=[NH+:21]\[H:20].Nc1nc[n:10]c([O-])c1N>>COc1ccccc1C(c1ccccc1)=[NH:21].Nc1nc[n+:10]([H:20])c([O-])c1N 10=20;20,21=21",
"CC(=O)c1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1.CCCCn1c[n+:21]([H:20])c2ccccc21>>CC(=O)c1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1.CCCCn1c[n:21]c2ccccc21 10=20;20,21=21",
"CCCCCCC(=O)[O:21][H:20].OCCCCCc1cccc[n:10]1>>CCCCCCC(=O)[O-:21].OCCCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"C[C@]12C[C@H](C(=O)[O:21][H:20])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2.O=C1NC2(CCOc3ccc(F)cc32)C(=O)[N-:10]1>>C[C@]12C[C@H](C(=O)[O-:21])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2.O=C1NC2(CCOc3ccc(F)cc32)C(=O)[N:10]1[H:20] 10=20;20,21=21",
